US04416879
Trifluoroacetic anhydride (26 g) was added to a stirred suspension of 2-(3-thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer)(12 g) in tetrahydrofuran (120 ml) at -15° C. to -10° C. Triethylamine (8.5 g) was added to the reaction mixture at -10° to 3° C. and stirred for 1 hour at 3° to 5° C. The reaction mixture was poured to a mixture of ethyl acetate and a saturated aqueous solution of sodium bicarbonate. The separated aqueous layer was adjusted to pH 2.0 with 10% aqueous hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated. The residue was washed with ethyl acetate and filtered to give 2-(3-thietanyloxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid (syn isomer) (12.3 g).

reactant | Trifluoroacetic anhydride | 26 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-(3-thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetic acid | 12 g | S1CC(C1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | 8.5 g | C(C)N(CC)CC | C6H15N
product | 2-(3-thietanyloxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid | 12.3 g | S1CC(C1)ON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C10H8F3N3O4S2
